US07423052B2
Description 111. (RS)-4-{1-[5-(4-Fluorophenyl)-2-methylthiazol-4-yl]-methanoyl}-3-[2-(4-fluoro-phenyl)-2-oxo-ethoxycarbonylmethyl]-piperazine-1-carboxylic acid tert-butyl ester
(RS)-3-[2-(4-Fluorophenyl)-2-oxo-ethoxycarbonylmethyl]-piperazine-1-carboxylic acid tert-butyl ester description 110 (0.887 g) was reacted with HATU (0.932 g), diisopropylethylamine (1.30 ml) and 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid (0.707 g) in dry DMF (8 ml) according to the method of description 20. Silica gel column chromatography, eluting with ethyl acetate-hexane mixtures provided the title compound as a white foam (1.168 g), mass spectrum (API+) 600 [MH+], C30H31F2N3O6S requires 599.

reactant | (RS)-3-[2-(4-Fluorophenyl)-2-oxo-ethoxycarbonylmethyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(NCC1)CC(=O)OCC(=O)C1=CC=C(C=C1)F | C19H25FN2O5
reactant | HATU | 0.932 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 1.30 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid | 0.707 g | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)O | C11H8FNO2S
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | (RS)-4-{1-[5-(4-Fluorophenyl)-2-methylthiazol-4-yl]-methanoyl}-3-[2-(4-fluoro-phenyl)-2-oxo-ethoxycarbonylmethyl]-piperazine-1-carboxylic acid tert-butyl ester | 1.168 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(=O)C=1N=C(SC1C1=CC=C(C=C1)F)C)CC(=O)OCC(=O)C1=CC=C(C=C1)F | C30H31F2N3O6S
